US07319104B2
2-Chloro-4-(2-{(5-ethylpyrimidin-2-yl)[3-(trifluoromethoxy)benzyl]amino}ethyl)phenol
Similarly prepared from N-[2-(3-chloro-4-methoxyphenyl)ethyl]-5-ethylpyrimidin-2-amine and 3-trifluoromethoxy benzyl bromide.

reactant | N-[2-(3-chloro-4-methoxyphenyl)ethyl]-5-ethylpyrimidin-2-amine | ClC=1C=C(C=CC1OC)CCNC1=NC=C(C=N1)CC | C15H18ClN3O
reactant | 3-trifluoromethoxy benzyl bromide | FC(OC=1C=C(CBr)C=CC1)(F)F | C8H6BrF3O
product | 2-Chloro-4-(2-{(5-ethylpyrimidin-2-yl)[3-(trifluoromethoxy)benzyl]amino}ethyl)phenol | ClC1=C(C=CC(=C1)CCN(CC1=CC(=CC=C1)OC(F)(F)F)C1=NC=C(C=N1)CC)O | C22H21ClF3N3O2
